US06906084B2
(ii) 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-methanesulfonyl-1H-indole-2-carboxylic acid.
To a solution of 1 g 5-Methanesulfonyl-1H-indole-2-carboxylic acid methyl ester in 10 ml DMF, 158 mg (60% in oil) sodium hydride were added at RT. After stirring for 10 min 985 mg 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide were added and the mixture was stirred for 2 h. After the addition of 7 ml water the mixture was filtered through a chem elut® cartridge by elution with ethyl acetate and concentrated under reduced pressure. The residue was taken-up in 10 ml water/THF 1:2 and treated with 2 ml aqueous KOH solution (10%). After stirring for 16 h at RT the reaction mixture was acidified with hydrochloric acid (5M). The precipitate was collected by filtration and dried in vacuo to yield the product as a yellow solid. Yield: 1.1 g.

reactant | 5-Methanesulfonyl-1H-indole-2-carboxylic acid methyl ester | 1 g | COC(=O)C=1NC2=CC=C(C=C2C1)S(=O)(=O)C | C11H11NO4S
reactant | sodium hydride | 158 mg | [H-].[Na+]
reactant | 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide | 985 mg | BrCC(=O)NC1=NC=C(C=C1)Cl | C7H6BrClN2O
reactant | water | 7 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-methanesulfonyl-1H-indole-2-carboxylic acid | ClC=1C=CC(=NC1)NC(=O)CN1C(=CC2=CC(=CC=C12)S(=O)(=O)C)C(=O)O | C17H14ClN3O5S
